US07598257B2
Step 5: N′-Cyano-4-(cyanomethyl)-4-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboximidamide
Methyl N-cyano-4-(cyanomethyl)-4-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-piperidine-1-carbimidothioate (41.3 mg, 0.102 mmol) (53 mg TFA salt) was dissolved in 2.0 M ammonia in isopropyl alcohol (4.00 mL). The resulting mixture was heated to 100° C. for 1 h in a microwave reactor. Analysis by HPLC and LCMS showed 60% reaction to give the expected M+H 375 (50 area %). To this mixture was added 2 mL of 7 N NE3/MeOH. The resulting mixture was heated at 120° C. for one hour. HPLC and LCMS analyses showed no remaining starting material. The reaction mixture was concentrated on a rotory evaporator. The product was isolated by prep HPLCMS using a 30 mm×100 mm C18 column, eluting with a solvent gradient; 10% ACN—H2O (0.1% TFA), 1.5 min, to 30% at 6 min; 60 mL/min; detector set at m/z 375; retention time, 4.7 min. The eluate was freeze-dried to yield 11.7 mg of the product TFA salt as a white solid. 1H NMR (d6-DMSO) δ 12.69 (s, 1H, NH); 8.92 (s, 1H); 8.81 (s, 1H); 8.51 (s, 1H); 7.75 (m, 1H); 7.22 (m, 1H); 7.18 (s, 2H, NH2); 3.84 (m, 2H); 3.23 (s, 2H); 2.99 (m, 2H); 2.60 (m, 2H); 1.97 (m, 2H). MS(ES) 375 (M+H).

reactant | Methyl N-cyano-4-(cyanomethyl)-4-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-piperidine-1-carbimidothioate | 0.102 mmol, 41.3 mg | C(#N)N=C(SC)N1CCC(CC1)(N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2)CC#N | C19H19N9S
reactant | MeOH | CO | CH4O
reactant | ammonia | 2.0 M | N | H3N
solvent | isopropyl alcohol | 4.00 mL | C(C)(C)O | C3H8O
product | N′-Cyano-4-(cyanomethyl)-4-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]piperidine-1-carboximidamide | 11.7 mg | C(#N)N=C(N)N1CCC(CC1)(N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2)CC#N | C18H18N10
